US04370328
4-(2-Acetamidoethyl)pyridine (33 g.) in ethanol (250 ml.) was acidified to pH 4 with hydrochloric acid and hydrogenated at 60 p.s.i./60° C. over a platinum oxide catalyst for 18 hours, after which time the uptake of hydrogen was complete. The catalyst was then removed by filtration and the filtrate was treated with a solution of potassium hydroxide flakes in methanol (1.1 molar equivalents) and refiltered. The solvents were distilled off in vacuo, leaving a clear oil, which on standing gave 4-(2-acetamidoethyl)piperidine (18 g.) as a white solid, m.p. 60° C.

reactant | 4-(2-Acetamidoethyl)pyridine | 33 g | C(C)(=O)NCCC1=CC=NC=C1 | C9H12N2O
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 4-(2-acetamidoethyl)piperidine | 18 g | C(C)(=O)NCCC1CCNCC1 | C9H18N2O
